US05763439
Preparation of 4-amino-2-tert-butyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 10)
Into 150 ml of an absolute methanol solution of 10.8 g of 4-amino-2-tert-butyl-5-(4-pyridylimino)pyridazin-3-(2H)-one, 0.76 g of sodium borohydride was added in a few times under cooling with ice. Then, the mixture was stirred at room temperature for 40 minutes, and the 0.76 g of sodium borohydride was further added thereto. The mixture was stirred for 0.5 hour. Methanol was distilled off under reduced pressure, and 200 ml of water and 400 ml of ethyl acetate were added to the residue, followed by shaking. The insoluble powder was collected by filtration. The organic layer in the filtrate was dried over anhydrous sodium sulfate and distilled under reduced pressure to obtain 4.7 g of a residue. The residue was combined to the previously obtained insoluble powder, and the mixture was thoroughly washed with a solvent mixture comprising 150 ml of n-hexane and 50 ml of methylene chloride, and then dried to obtain 8.7 g of the desired product (Compound No. 10) having a melting point of from 219° to 225° C.

reactant | 4-amino-2-tert-butyl-5-(4-pyridylimino)pyridazin-3-(2H)-one | 10.8 g | NC1C(N(N=CC1=NC1=CC=NC=C1)C(C)(C)C)=O | C13H17N5O
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 4-amino-2-tert-butyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | 4.7 g | NC=1C(N(N=CC1NCC1=CC=NC=C1)C(C)(C)C)=O | C14H19N5O
